US08283326B2
4-Amino-2-(4-methoxy-benzyl)-1-methyl-benzene
A mixture of (2-methyl-5-nitro-phenyl)-(4-methoxy-phenyl)-methanone (5.8 g) and 10% Pd on carbon (1.0 g) in ethyl acetate (200 mL) is shaken under hydrogen atmosphere (7 bar) at ambient temperature for 4.5 h. The solution is separated from the palladium catalyst by filtration and the filtrate is concentrated in vacuo to give a mixture of the title compound, (5-amino-2-methyl-phenyl)-(4-methoxy-phenyl)-methanone and (5-amino-2-methyl-phenyl)-(4-methoxy-phenyl)-methanol. This compound mixture is dissolved in a mixture of acetonitrile (12 mL) and dichloromethane (8 mL) and the resulting solution is cooled in an ice-bath. Triethylsilane (20 mL) is added followed by the slow addition of boron trifluoride diethyl etherate (16 mL). The solution is stirred for 0.5 h at 5° C. and then quenched by the addition of aqueous sodium hydroxide solution (2 mol/L). The organic phase is separated and the aqueous phase is extracted with dichloromethane. The combined organic phases are washed with brine, dried (sodium sulphate) and concentrated in vacuo. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 9:1->2:1).

reactant | (2-methyl-5-nitro-phenyl)-(4-methoxy-phenyl)-methanone | 5.8 g | CC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=CC=C(C=C1)OC | C15H13NO4
reactant | (5-amino-2-methyl-phenyl)-(4-methoxy-phenyl)-methanone | NC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)OC)C | C15H15NO2
reactant | (5-amino-2-methyl-phenyl)-(4-methoxy-phenyl)-methanol | NC=1C=CC(=C(C1)C(O)C1=CC=C(C=C1)OC)C | C15H17NO2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 1.0 g | [Pd] | Pd
product | 4-Amino-2-(4-methoxy-benzyl)-1-methyl-benzene | NC1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OC | C15H17NO
